US07074796B2
7a, 3-[4-(2,3-Dichlorophenyl)piperazin-1-yl]-1-(5-fluoro-2,3-dihydro-1H-indol-1-yl)propan-1-one
3-Bromopropanoyl chloride (1 g in 10 ml dry dichloromethane) was added with stirring at 0° C. to a suspension of 1 g Wang resin (Rapp polymere, loading 0.95 mmol/g) in 10 ml dry dichloromethane containing 5 equivalents of diisopropylethyl amine. The mixture was stirred overnight at room temperature, filtered and washed with dry dichloromethane (6×100 ml). A solution of 1-(2,3-dichlorophenyl)piperazine (2.5 equivalents) in dry acetonitrile containing diisopropylethyl amine (5 equivalents) was added to the dried resin and the mixture heated to 70° C. for 3 hours. The mixture was cooled to room temperature and the resin washed with dry acetonitrile and dichloromethane and dried. A solution of AlCl3 (1.1 equivalent) in dry acetonitrile (5 ml) was added to the resin followed by a solution of 5-fluoro-2,3-dihydro-1H-indole (3 equivalents) in dry acetonitrile (5 ml) and the mixture agitated for 3 hours. The reaction was quenched by addition of 2N NaOH (1.2 equivalent), filtrated and the product purified by solid phase ion exchange chromatography (Varian SCX columns) using Gilson ASPEC 232 XL. Further purification was performed on a PE Sciex API 150EX instrument equipped with IonSpray source and Shimadzu LC-8A/SLC-10A LC system. The LC conditions (50×20 mm YMC ODS-A with 5 μm particle size) were linear gradient elution with water/acetonitrile/trifluoroacetic acid (80:20:0.05) to water/acetonitrile/trifluoroacetic acid (10:90:0.03) in 7 min at 22.7 mL/min. Fraction collection was performed by split-flow MS detection. Purity was determined by integration of the UV trace (254 nm). The retention times RT are expressed in minutes. LC/MS (m/z) 422 (MH+), RT=2.49, purity: 70.57%

reactant | 3-Bromopropanoyl chloride | 10 ml, 1 g | BrCCC(=O)Cl | C3H4BrClO
reactant | dichloromethane | 10 ml, 5 equivalents | ClCCl | CH2Cl2
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(2,3-dichlorophenyl)piperazine | 2.5 equivalents | ClC1=C(C=CC=C1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | diisopropylethyl amine | 5 equivalents | C(C)(C)N(CC)C(C)C | C8H19N
reactant | AlCl3 | 1.1 equivalent | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 5-fluoro-2,3-dihydro-1H-indole | 3 equivalents | FC=1C=C2CCNC2=CC1 | C8H8FN
reactant | NaOH | 2N, 1.2 equivalent | [OH-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 3-[4-(2,3-Dichlorophenyl)piperazin-1-yl]-1-(5-fluoro-2,3-dihydro-1H-indol-1-yl)propan-1-one | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCC(=O)N1CCC2=CC(=CC=C12)F | C21H22Cl2FN3O
